US07897766B2
Benzo[d][1,2,3]thiadiazole-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and benzo[d][1,2,3]thiadiazole-5-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 8.22 (d, J=8.5 Hz, 1H), 8.36 (d, J=8.5 Hz, 1H), 9.19 (s, 1H). MS (DCI/NH3) m/z 315. Anal. Calculated for C16H18N4OS.HCl: C, 54.77; H, 5.46; N, 15.97. Found: C, 53.27; H, 4.94; N, 15.47.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | benzo[d][1,2,3]thiadiazole-5-carboxylic acid | S1N=NC2=C1C=CC(=C2)C(=O)O | C7H4N2O2S
reactant | NH3 | N | H3N
product | Benzo[d][1,2,3]thiadiazole-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2C=CC3=C(N=NS3)C2 | InChI=1S/C16H18N4OS.ClH/c21-16(10-1-2-14-13(5-10)18-19-22-14)17-15-11-3-9-4-12(15)8-20(6-9)7-11;/h1-2,5,9,11-12,15H,3-4,6-8H2,(H,17,21);1H/t9?,11?,12?,15-;
